US07179934B2
(3R,4R,5R)-3-Acetylamino-4,5-dimethyl-octanoic acid ethyl ester
A reactor was charged with 166 g of (4R,5R)-3-acetylamino-4,5-dimethyl-(Z)-oct-2-enoic acid ethyl ester (substrate), 2650 mL of MeOH, and 36 g of Pd/SrCO3 (lot#D25N17) catalyst. The substrate was reacted with H2 at a pressure of 50 psig to 51 psig of. During hydrogenation, additional catalyst was added at a reaction time of 67 hours (10 g). After the reaction was completed (90 hours), Pd/SrCO3 was filtered off and the filtrate was concentrated under reduced pressure to give 167 g (>99% yield) of the titled compound as an oil: 1H NMR (400 MHz, CHLOROFORM-D): 0.82 (d, J=6.8 Hz, 3 H), 0.88 (t, J=7.2 Hz, 3 H), 0.90 (d, J=6.6 Hz, 3 H), 1.25 (t, J=7.3 Hz, 3 H), 1.00–1.58 (m, 6 H), 1.96 (s, 3 H), 2.52 (q, J=5.2 Hz, 2 H), 3.47 (s, 1 H), 4.10–4.30 (m, 2 H), 4.12 (t, J=7.1 Hz, 1 H), 5.9(d, 1 H).

reactant | (4R,5R)-3-acetylamino-4,5-dimethyl-(Z)-oct-2-enoic acid ethyl ester | 166 g | C(C)OC(\C=C(\[C@@H]([C@@H](CCC)C)C)/NC(C)=O)=O | C14H25NO3
solvent | MeOH | 2650 mL | CO | CH4O
product | (3R,4R,5R)-3-Acetylamino-4,5-dimethyl-octanoic acid ethyl ester | 167 g, >99% yield | C(C)OC(C[C@H]([C@@H]([C@@H](CCC)C)C)NC(C)=O)=O | C14H27NO3
